US04269837
To 3.48 g (0.02 mol) of phenylisocyanide dichloride in 25 ml of anhydrous ether at 0° C. under a nitrogen atmosphere was added 1.74 g (0.02 mol) of morpholine and 2.02 g (0.02 mol) of triethylamine in 20 ml of ether dropwise. The mixture was stirred for 22 hours and filtered to remove the precipitated triethylamine hydrochloride. To a solution of 4.8 g (0.04 mol) of benzamidine in 15 ml of anhydrous tetrahydrofuran at 0° C. was added the above filtrate dropwise. The mixture was stirred for 22 hours at ambient temperature. The precipitated crude product was collected, washed with anhydrous ether, chromatographed on 150 g of silica gel using 1:6 methanol-dichloromethane and recrystallized from methanol-ether to afford 2.26 g (32%) of N-(1-amino-1-phenylmethylene)-N'-phenyl-4-morpholinecarboximidamide hydrochloride, mp 247°-248° C.

reactant | phenylisocyanide dichloride | 0.02 mol, 3.48 g | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | morpholine | 0.02 mol, 1.74 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.02 mol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | benzamidine | 0.04 mol, 4.8 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(1-amino-1-phenylmethylene)-N'-phenyl-4-morpholinecarboximidamide hydrochloride | 2.26 g, 32% | Cl.NC(C1=CC=CC=C1)=NC(=NC1=CC=CC=C1)N1CCOCC1 | InChI=1S/C18H20N4O.ClH/c19-17(15-7-3-1-4-8-15)21-18(22-11-13-23-14-12-22)20-16-9-5-2-6-10-16;/h1-10H,11-14H2,(H2,19,20,21);1H
